US04701208
3-Amino-2-formylfuran, prepared from 3-azido-2-formylfuran (8.9 g 0.065 mol) is dissolved in ethanol and to this solution diethyl oxalactate (12.23 g, 0.065 mol) and ten drops of piperidine are added. In addition pulverized 3 Å molecular sieve is added and the reaction stirred at 65°-60° C. for three hours, then additional diethyl oxalacetate (2.2 g) is added. The reaction is essentially complete after 12 hours at 55°-60° C. On cooling the reaction is filtered, and the filtrate concentrated and then dissolved in ethyl acetate, water washed, then brine washed, dried over anhydrous magnesium sulfate and stripped to dryness. The residue is dissolved in 3:1 hexane:ethyl acetate and passed through a flash chromatographic column in two stages. First it is filtered by vacuum through a four to five inch pad of silica from which the last three fractions containing the required product are collected and combined. These combined fractions are then passed through a six inch column eluting under pressure with ethyl acetate:hexane 3:1 and 2.1. Diethyl furo[3,2-b]pyridine-5,6-dicarboxylate 4.15 g (24%) is obtained after crystallization from hexane-ether, of mp 60°-64° C., and which with a mass spectrum m/e of 264.

reactant | 3-Amino-2-formylfuran | NC1=C(OC=C1)C=O | C5H5NO2
reactant | 3-azido-2-formylfuran | 0.065 mol, 8.9 g | N(=[N+]=[N-])C1=C(OC=C1)C=O | C5H3N3O2
reactant | diethyl oxalacetate | 2.2 g | C(CC(=O)C(=O)OCC)(=O)OCC | C8H12O5
solvent | ethanol | C(C)O | C2H6O
catalyst | piperidine | ten drops | N1CCCCC1 | C5H11N
product | Diethyl furo[3,2-b]pyridine-5,6-dicarboxylate | 4.15 g, 24% | O1C=CC2=NC(=C(C=C21)C(=O)OCC)C(=O)OCC | C13H13NO5
